US07253286B2
N6-Methyl-4-(3-chloro-4-(((ethylamino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxamide
After dissolving 4-(3-chloro-4-(((ethylamino)carbonyl) amino)phenoxy)-7-methoxy-6-quinolinecarboxylic acid (104 mg, 0.250mmol) in dimethylformamide (3 ml), there were added a 40% methylamine-methanol solution (0.100 ml), triethylamine (0.250 ml) and 1H-1,2,3-benzotriazol-1-yloxy)(tri(dimethylamino)) phosphonium hexafluoro phosphate (221mg, 0.500mmol) in that order at room temperature, and the mixture was stirred for 15 hours. The reaction solution was distributed between ethyl acetate and water, and the organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was suspended in ethyl acetate, the suspension was diluted with hexane and the crystals were filtered out and blow-dried to obtain the title compound (79.0 mg, 0.184 mmol, 74%) as white crystals.

reactant | 4-(3-chloro-4-(((ethylamino)carbonyl) amino)phenoxy)-7-methoxy-6-quinolinecarboxylic acid | 0.250mmol, 104 mg | ClC=1C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)O)OC)C=CC1NC(=O)NCC | C20H18ClN3O5
reactant | methylamine methanol | 0.100 ml | CN.CO
reactant | triethylamine | 0.250 ml | C(C)N(CC)CC | C6H15N
reactant | (tri(dimethylamino)) phosphonium hexafluoro phosphate | 0.500mmol, 221mg | F[P-](F)(F)(F)(F)F.CN(C)[PH+](N(C)C)N(C)C
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N6-Methyl-4-(3-chloro-4-(((ethylamino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxamide | 0.184 mmol, 79.0 mg, 74% | CNC(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NCC)Cl | C21H21ClN4O4
